US05240925
To a flask was added 0.24 g. (5.5 mmoles) of a 55% oil dispersion of sodium hydride. After washing the sodium hydride with hexane to remove the mineral oil, 25 ml. of DMF was added, the solution cooled to 0° C., and then 1.3 g. (5.0 mmoles) of 2-(4-chlorophenyl)-4-(4-morpholinyl)butyronitrile in 15 ml. of DMF was slowly added. The solution was stirred for 30 minutes and then 0.59 g. (5.0 mmoles) of 1-(chloromethyl)-1,2,4-triazole in 10 ml. of DMF was added slowly. The reaction was stirred overnight at room temperature and then was poured into ice water. The organics were extracted into ethyl acetate, washed with water, dried over magnesium sulfate, filtered, and concentrated. The product was purified using chromatography by eluting the impurities with ethyl acetate and the desired 1-[2-(4-chlorophenyl)-2-cyano-4-(4-morpholinyl)butyl]-1,2,4-triazole product with acetone to give 1.0 g. (58% yield) of an orange oil.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-(4-chlorophenyl)-4-(4-morpholinyl)butyronitrile | 5.0 mmoles | ClC1=CC=C(C=C1)C(C#N)CCN1CCOCC1 | C14H17ClN2O
reactant | 1-(chloromethyl)-1,2,4-triazole | 5.0 mmoles | ClCN1N=CN=C1 | C3H4ClN3
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-[2-(4-chlorophenyl)-2-cyano-4-(4-morpholinyl)butyl]-1,2,4-triazole | ClC1=CC=C(C=C1)C(CN1N=CN=C1)(CCN1CCOCC1)C#N | C17H20ClN5O
